US07875640B2
ethyl N-naphthalen-1-ylpropionimidate
The title compound was prepared from 1-aminonaphthalene and triethylorthopropionate according to the following procedure: DeWolfe, R. H. J. Org. Chem. 1962, 27, 490-493.

reactant | 1-aminonaphthalene | NC1=CC=CC2=CC=CC=C12 | C10H9N
reactant | triethylorthopropionate | C(C)OC(CC)(OCC)OCC | C9H20O3
product | ethyl N-naphthalen-1-ylpropionimidate | C1(=CC=CC2=CC=CC=C12)N=C(CC)OCC | C15H17NO
